data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2074,2301,[CH3:13][O:14][C:15](=[O:16])[C:17]([C:18]#[N:19])=[O+:20][C-:21]([C:22]([CH3:23])=[O:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1.[CH3:1][O:2][C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9]([F:10])([F:11])[F:12]>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]([O:7][CH3:8])([C:9]([F:10])([F:11])[F:12])[C:17]([C:15]([O:14][CH3:13])=[O:16])([C:18]#[N:19])[O:20][C:21]1([C:22]([CH3:23])=[O:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1,water,298.15,28.50759542792644,-19.98992358053073
828,897,[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][C:7]#[N:8].[CH3:9][O:10][C:11](=[O:12])[C-:13]([NH+:14]=[C:15]([CH3:16])[C:17]([CH3:18])=[O:19])[C:20](=[O:21])[O:22][CH3:23]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[C:13]([C:11]([O:10][CH3:9])=[O:12])([C:20](=[O:21])[O:22][CH3:23])[NH:14][C:15]1([CH3:16])[C:17]([CH3:18])=[O:19],water,298.15,13.870979456581829,-37.89733807772959
4589,5234,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH:11](=[O+:12][N-:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[N:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[O:12][CH:11]2[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,9.357683953429246,-31.590072263218985
1116,1214,[CH2:12]=[N+:13]([CH3:14])[C-:15]([C:16](=[O:17])[NH:18][CH3:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[CH2:12][N:13]([CH3:14])[C:15]3([C:16](=[O:17])[NH:18][CH3:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,12.506363025690884,-49.557973613078296
339,368,[CH:10]#[N+:11][N-:12][C:13]([CH3:14])=[O:15].[Cl:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[Cl:1][C:2]12[C:3]([Br:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[CH:10]=[N:11][N:12]2[C:13]([CH3:14])=[O:15],water,298.15,19.592092807498734,-45.77836563216169
1286,1407,[CH3:14][NH:15][C:16](=[O:17])[CH-:18][N+:19]#[C:20][c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([O:7][CH3:8])([CH:9]3[CH:10]=[CH:11][CH:12]1[O:13]3)[C:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)=[N:19][CH:18]2[C:16]([NH:15][CH3:14])=[O:17],water,298.15,10.47108967605386,-49.895630094211405
4420,5052,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]#[N+:16][C-:17]([C:18]([CH3:19])=[O:20])[C:21]([CH3:22])=[O:23]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:17]([C:18]([CH3:19])=[O:20])([C:21]([CH3:22])=[O:23])[N:16]=[C:15]2[C:13]([O:12][CH3:11])=[O:14],water,298.15,23.676164006809355,-15.624294773645644
2673,2971,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]#[C:13][C:14]([C:15]([F:16])([F:17])[F:18])([C:19]([F:20])([F:21])[F:22])[CH2:23][CH2:24][CH2:25][CH2:26]1.[CH3:27][C:28](=[O:29])[C:30]#[N+:31][C-:32]([C:33]#[N:34])[C:35]([CH3:36])=[O:37]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]2=[C:13]([C:14]([C:15]([F:16])([F:17])[F:18])([C:19]([F:20])([F:21])[F:22])[CH2:23][CH2:24][CH2:25][CH2:26]1)[C:30]([C:28]([CH3:27])=[O:29])=[N:31][C:32]2([C:33]#[N:34])[C:35]([CH3:36])=[O:37],water,298.15,23.46778013523335,-39.59744461724755
3932,4497,[CH3:10][N-:11][O+:12]=[C:13]([C:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][N:11]([CH3:10])[O:12][C:13]1([C:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,7.678191452710135,-33.200274159178434
3634,4153,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][O:8][C:9](=[O:10])[C-:11]([C:12]#[N:13])[O+:14]=[C:15]([CH3:16])[C:17]([CH3:18])=[O:19]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:15]([CH3:16])([C:17]([CH3:18])=[O:19])[O:14][C:11]1([C:9]([O:8][CH3:7])=[O:10])[C:12]#[N:13],water,298.15,13.370801503447616,-31.26439247781544
873,946,[F:1][C:2]([F:3])([F:4])[C:5]1=[CH:6][CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2.[N:12]#[C:13][C-:14]([C:15]#[N:16])[NH+:17]=[CH:18][c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1>>[F:1][C:2]([F:3])([F:4])[C:5]12[CH:6]([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:14]([C:13]#[N:12])([C:15]#[N:16])[NH:17][CH:18]2[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,21.71955013940588,-10.72737142822616
